US08748443B2
Part A. Preparation of 3-bromo-2-tert-butoxypyridine
To a solution of 3-bromo-2-fluoropyridine (500 mg, 2.84 mmol) in anhydrous tetrahydrofuran (10 mL) under nitrogen was added potassium tert-butoxide (540 mg, 4.8 mmol) in portions over 30 minutes at 25° C., and stirring was continued for 4 hours at 25° C. The mixture was concentrated in vacuo and purified by silica gel flash chromatography eluting with dichloromethane/hexanes (50% to 100%) to give the title compound.

reactant | 3-bromo-2-fluoropyridine | 2.84 mmol, 500 mg | BrC=1C(=NC=CC1)F | C5H3BrFN
reactant | potassium tert-butoxide | 4.8 mmol, 540 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-bromo-2-tert-butoxypyridine | BrC=1C(=NC=CC1)OC(C)(C)C | C9H12BrNO
